US09062076B2
A mixture of (E)-1-(3-(3,4-dimethoxyphenyl)acryloyl)-1H-benzo[d]imidazol-2(3H)-one (240 mg, 0.75 mmol), iodomethane (68 uL, 1.1 mmol) and K2CO3 (204 mg, 1.5 mmol) in DMF (5 mL) was stirred at room temperature overnight. The reaction was quenched with water and extracted with DCM. The combined organic phases were washed with brine, dried over sodium sulfate and the solvent removed under reduced pressure. The residue was purified by recrystallisation from EtOH to afford (E)-1-(3-(3,4-dimethoxyphenyl)acryloyl)-3-methyl-1H-benzo[d]imidazol-2(3H)-one (200 mg, 79%). 1H-NMR (400 MHz, CDCl3) δ 3.46 (s, 3H), 3.96 (s, 3H), 3.98 (s, 3H), 6.91 (d, J=8.4 Hz, 1H), 7.01 (dd, J=7.6, 0.8 Hz, 1H), 7.19-7.28 (m, 4H), 7.98 (d, J=15.6 Hz, 1H), 8.15 (d, J=15.6 Hz, 1H) 8.32 (dd, J=8.0, 0.8 Hz, 1H); LC-MS (ES-API); rt 9.05 min; m/z calculated for C19H18N2O4 [M+H]+ 339.1, found 339.0 and 361.0 ([M+Na]+).

reactant | (E)-1-(3-(3,4-dimethoxyphenyl)acryloyl)-1H-benzo[d]imidazol-2(3H)-one | 0.75 mmol, 240 mg | COC=1C=C(C=CC1OC)/C=C/C(=O)N1C(NC2=C1C=CC=C2)=O | C18H16N2O4
reactant | iodomethane | 1.1 mmol, 68 uL | IC | CH3I
reactant | K2CO3 | 1.5 mmol, 204 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (E)-1-(3-(3,4-dimethoxyphenyl)acryloyl)-3-methyl-1H-benzo[d]imidazol-2(3H)-one | 200 mg, 79% | COC=1C=C(C=CC1OC)/C=C/C(=O)N1C(N(C2=C1C=CC=C2)C)=O | C19H18N2O4
